US07579341B2
A12a) tert-butyl 3-(4-benzyloxycarbonyl-piperazin-1-yl)-8-aza-bicyclo[3.2.1]octane-8-carboxylate
A mixture of 5.00 g (22.2 mmol) tert-butyl 3-oxo-8-aza-bicyclo[3.2.1]octan-8-carboxylate and benzyl piperazine-1-carboxylate in 60 mL THF was adjusted with AcOH to a pH of 5 and stirred for 1 h at RT. The mixture was combined batchwise with 5.64 g (26.6 mmol) sodium triacetoxyborohydride while cooling with ice and the reaction mixture was stirred overnight at RT. It was combined with 150 mL 15% K2CO3 solution, the organic phase was separated off, the aqueous phase was exhaustively extracted with EtOAc and the combined organic phases were dried over Na2SO4. After elimination of the desiccant and solvent the residue was purified by chromatography (silica gel, EtOAc).

reactant | tert-butyl 3-oxo-8-aza-bicyclo[3.2.1]octan-8-carboxylate | 22.2 mmol, 5.00 g | O=C1CC2CCC(C1)N2C(=O)OC(C)(C)C | C12H19NO3
reactant | benzyl piperazine-1-carboxylate | N1(CCNCC1)C(=O)OCC1=CC=CC=C1 | C12H16N2O2
reactant | sodium triacetoxyborohydride | 26.6 mmol, 5.64 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | K2CO3 | 150 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | AcOH | CC(=O)O | C2H4O2
product | tert-butyl 3-(4-benzyloxycarbonyl-piperazin-1-yl)-8-aza-bicyclo[3.2.1]octane-8-carboxylate | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1CC2CCC(C1)N2C(=O)OC(C)(C)C | C24H35N3O4
